US05760264
(R)-[1-(Dimethylamino)propyl]ferrocene
A solution of 10.0 g (38.6 mmol) of crude (R)-(1-hydroxypropyl)ferrocene in 10 ml of pyridine and 10 ml of acetic anhydride was stirred at room temperature for 18 hours. The reaction mixture was admixed with 50 ml of water and extracted three times with 200 ml each time of diethyl ether. The combined organic phases were dried over magnesium sulphate and evaporated on a rotary evaporator. The formation of the acetylated (R)-(1-hydroxypropyl)ferrocene can be followed by 1H NMR spectroscopy (δCHOAc =5.72-5.66, "dd", 1H). The crude (R)-(1-acetoxypropyl) ferrocene was stirred overnight at room temperature with 100 ml of isopropyl alcohol and 75 ml of dimethylamine (50% in water). The mixture was subsequently subjected to an aqueous work-up and extracted three times with 200 ml each time of diethyl ether. The combined organic phases were dried over magnesium sulphate and evaporated to dryness.

reactant | (R)-(1-hydroxypropyl)ferrocene | 38.6 mmol, 10.0 g | O[C@H](CC)[C-]1C=CC=C1.[CH-]1C=CC=C1.[Fe+2]
reactant | water | 50 ml | O | H2O
reactant | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
solvent | acetic anhydride | 10 ml | C(C)(=O)OC(C)=O | C4H6O3
product | (R)-[1-(Dimethylamino)propyl]ferrocene | CN([C@H](CC)[C-]1C=CC=C1)C.[CH-]1C=CC=C1.[Fe+2] | InChI=1S/C10H16N.C5H5.Fe/c1-4-10(11(2)3)9-7-5-6-8-9;1-2-4-5-3-1;/h5-8,10H,4H2,1-3H3;1-5H;/q2*-1;+2/t10-;;/m1../s1
